US06627645B2
4-(4-Butylpiperidine-1-yl)-butyric acid methyl ester (76) (40-LH-58)
To a solution of 4-bromo-butyric acid methyl ester (1.35 g, 7.5 mmol) in dry acetonitrile (10 ml) was added 4-butylpiperidine (1.00 g, 7.1 mmol) and K2CO3 (1.10 g, 7.8 mmol). After stirring at rt for 12 h, the reaction mixture was evaporated to dryness followed by addition of water (15 ml). The aqueous phase was extracted with ethyl acetate (3×20 ml) and the combined organic phases were dried (Na2SO4) and concentrated in vacuo to produce 1.71 g of the crude title compound 76. The crude product was purified by flash chromatography (MeOH:ethyl acetate; 2:8) to give the pure title compound. Yield 1.27 g (74%). 1H NMR (CD3OD): δ3.65 (s, 3H), 2.93 (d, 2H), 2.33 (q, 4H), 1.98 (t, 2H), 1.81 (qv, 2H), 1.69 (d, 2H), 1.35-1.18 (m, 9H), 0.90 (t, 3H).

reactant | 4-bromo-butyric acid methyl ester | 7.5 mmol, 1.35 g | COC(CCCBr)=O | C5H9BrO2
reactant | 4-butylpiperidine | 7.1 mmol, 1.00 g | C(CCC)C1CCNCC1 | C9H19N
reactant | K2CO3 | 7.8 mmol, 1.10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(4-Butylpiperidine-1-yl)-butyric acid methyl ester | COC(CCCN1CCC(CC1)CCCC)=O | C14H27NO2
